US07893060B2
[1-(tert-Butyl-dimethyl-silanyl)-5-fluoro-1H-indol-4-yl]boronic acid
To a solution of 1-(tert-butyl-dimethyl-silanyl)-5-fluoro-1H-indole (30.0 g, 0.12 mol) in anhydrous THF (1000 mL) were added N,N,N′,N′-tetramethylethylenediamine (36.6 mL, 0.241 mol) and a solution of s-butyl lithium (1.4 M in cyclohexane, 172 mL, 0.241 mmol) at −78° C. The resulting mixture was stirred at −78° C. for 2 h, then triisopropyl borate (37.5 mL, 162.7 mmol) was added dropwise. The resulting solution was stirred at −78° C. for 40 min, then allowed to warm to −20° C. An aqueous solution of HCl (2.4 M, 250 mL) was added and the resulting mixture was poured into H2O. The layers were separated and the aqueous layer extracted with EtOAc. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The resultant yellow solid was then crystallised from DCM and cyclohexane to give the title compound as a white solid (25.0 g, 71%).

reactant | 1-(tert-butyl-dimethyl-silanyl)-5-fluoro-1H-indole | 0.12 mol, 30.0 g | C(C)(C)(C)[Si](N1C=CC2=CC(=CC=C12)F)(C)C | C14H20FNSi
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.241 mol, 36.6 mL | CN(CCN(C)C)C | C6H16N2
reactant | triisopropyl borate | 162.7 mmol, 37.5 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2.4 M, 250 mL | Cl | ClH
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
catalyst | s-butyl lithium | 0.241 mmol, 1.4 M, 172 mL | C(C)(CC)[Li]
solvent | H2O | O | H2O
product | [1-(tert-Butyl-dimethyl-silanyl)-5-fluoro-1H-indol-4-yl]boronic acid | 25.0 g, 71% | C(C)(C)(C)[Si](N1C=CC2=C(C(=CC=C12)F)B(O)O)(C)C | C14H21BFNO2Si
